US07491794B2
Synthesis of (1S,4R,6S,14S,18R)-18-amino-14-tert-butoxycarbonylamino-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid ethyl ester.
D A solution of 1-{[1-(2(S)-tert-butoxycarbonylamino-non-8-enoyl)-4(R)-(2-trimethylsilylethyl carbonylamino)-pyrrolidine-2(S)-carbonyl]-amino}-2(S)-vinyl-cyclopropane-1-(R)-carboxylic acid ethyl ester (1.27 g, 1.91 mmol) in methylene chloride (195 ml) was degassed for 1 h by bubbling N2 throughout the solution. Dichloro(o-isopropoxyphenyl-methyene)(tricyclohexylphosphine)ruthenium (II) (0.057 g, 0.096 mmol) was added and the reaction stirred at 40° C. for 16 h. The reaction was concentrated, placed onto silica gel and eluted with 50% ethyl acetate/hexanes. The resulting oil was treated with TBAF (1.0 M in THF, 2.87 ml) and heated to 50° C. for 4 h. The reaction was placed onto silica gel and eluted with 20% methanol/methyene chloride to give a tan solid (0.65 g, 69%). 1H NMR (CDCl3, 400 MHz): δ 1.06-1.66 (m, 17H), 1.85-1.95 (m, 2H), 2.0-2.1 (m, 1H), 2.1-2.2 (m, 1H), 2.2-2.3 (m, 1H), 2.65-2.75 (M, 1H), 3.40 (m, 1H), 3.73-3.83 (m, 2H), 4.08-4.19 (m, 2H), 4.56 (m, 1H), 4.78 (d, J=5.5 Hz, 1H), 5.20 (t, J=8.1 Hz, 1H), 5.34 (d, J=8.1 Hz, 1H), 5.47 (dt, J=4.5, 10.8 Hz, 1H), 7.08 (s, 1H). 493(H+).

reactant | 1-{[1-(2(S)-tert-butoxycarbonylamino-non-8-enoyl)-4(R)-(2-trimethylsilylethyl carbonylamino)-pyrrolidine-2(S)-carbonyl]-amino}-2(S)-vinyl-cyclopropane-1-(R)-carboxylic acid ethyl ester | 1.91 mmol, 1.27 g | C(C)OC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)NC(=O)CC[Si](C)(C)C)C([C@H](CCCCCC=C)NC(=O)OC(C)(C)C)=O | C33H56N4O7Si
solvent | methylene chloride | 195 ml | C(Cl)Cl | CH2Cl2
catalyst | Dichloro(o-isopropoxyphenyl-methyene)(tricyclohexylphosphine)ruthenium (II) | 0.096 mmol, 0.057 g | CC(C)OC1=CC=CC=C1C=[Ru](Cl)Cl.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3
product | (1S,4R,6S,14S,18R)-18-amino-14-tert-butoxycarbonylamino-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid ethyl ester | 0.65 g, 69% | C(C)OC(=O)[C@@]12NC([C@@H]3C[C@H](CN3C([C@H](CCCCCC=C[C@@H]2C1)NC(=O)OC(C)(C)C)=O)N)=O | C25H40N4O6
